US04143139
dl-6a,7-Dihydro-1-Hydroxy-6,6-Dimethyl-3-(2-Heptyloxy)-6H-Dibenzo-[b,d]pyran-9(8H)-One
To a solution of dl-5-hydroxy-3-hydroxymethylene-2,2-dimethyl-7-(2-heptyloxy)-4-chromanone (5.17 g., 15.4 mM) and methylvinyl ketone (2.27 ml., 27.9 mM) in methanol (23 ml.) is added triethylamine (0.54 ml.). The reaction is stirred for 16 hours at room temperature and then diluted with ether (250 ml.). The resulting ether solution is extracted with 10% sodium carbonate (6 × 30 ml.), dried over sodium sulfate, and concentrated under vacuum to yield 6.11 g. of an oil. The residue is refluxed with ethanol (45 ml.) and 2N potassium hydroxide (45 ml.) for 16 hours. Thereafter, the reaction solution is cooled, acidified with 6N hydrochloric acid and extracted with dichloromethane (3 × 100 ml.). The organic phase is dried over sodium sulfate and evaporated to yield 6.3 g. of a dark solid. The solid is triturated in hot ether to yield 1.00 g. of the title compound, m.p. 185°-189° C.; 1.26 g. of further material is obtained via silica gel chromatography of the mother liquor. The total yield is 42.3%.

reactant | dl-5 hydroxy-3-hydroxymethylene-2,2-dimethyl-7-(2-heptyloxy)-4-chromanone | 15.4 mM, 5.17 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OC1=C2C(C(C(OC2=CC(=C1)OC(C)CCCCC)(C)C)=CO)=O
reactant | methylvinyl ketone | 27.9 mM, 2.27 ml | CC(=O)C=C | C4H6O
reactant | potassium hydroxide | 2N, 45 ml | [OH-].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 23 ml | CO | CH4O
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | triethylamine | 0.54 ml | C(C)N(CC)CC | C6H15N
product | 6a,7-Dihydro-1-Hydroxy-6,6-Dimethyl-3-(2-Heptyloxy)-6H-Dibenzo-[b,d]pyran-9(8H)-One | yield is 42.3% | OC1=CC(=CC=2OC(C3C(C21)=CC(CC3)=O)(C)C)OC(C)CCCCC | C22H30O4
